US08729061B2
3-Amino-N-cyclopropyl-2-hydroxy-3-methylbutanamide
The title compound was prepared in analogy to (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide dihydrochloride, Representative Procedure A, starting with tert-butyl 1-hydroxy-2-methylpropan-2-ylcarbamate in the second step (A2).

reactant | (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide dihydrochloride | Cl.Cl.N[C@H]([C@@H](C(=O)NC1CC1)O)CC
reactant | tert-butyl 1-hydroxy-2-methylpropan-2-ylcarbamate | OCC(C)(C)NC(OC(C)(C)C)=O | C9H19NO3
product | 3-Amino-N-cyclopropyl-2-hydroxy-3-methylbutanamide | NC(C(C(=O)NC1CC1)O)(C)C | C8H16N2O2
